US06492383B1
(3-Methyl-1H-indol-5-yl)-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-amine
To a suspension of 5-(6-phenyl-thieno[3,2-d]pyrimidin-4-ylamino)-1H-indole-3-carbaldehyde (75 mg, 0.203 mmol) in 5 mL of methylene chloride was added zinc iodide (97 mg, 0.303) and sodium cyanoborohydride (97 mg, 1.522 mmol). The reaction mixture was refluxed for 24 hours and then cooled to ambient temperature and poured into an ice-cooled mixture of saturated ammonium chloride. The solution was then neutralized with 6N HCl and extracted with ethyl acetate (3×, 50 mL). The organic extracts were dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed using a Biotage Autoflash 40 system and 1% MeOH/CH2Cl2 to produce the title compound (22 mg, 31% yield). RP18-HPLC RT: 6.071 minutes; API MS: 357.10 (M+1); MP: 221-223° C.

reactant | 5-(6-phenyl-thieno[3,2-d]pyrimidin-4-ylamino)-1H-indole-3-carbaldehyde | 0.203 mmol, 75 mg | C1(=CC=CC=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C(=CNC2=CC1)C=O | C21H14N4OS
reactant | sodium cyanoborohydride | 1.522 mmol, 97 mg | C(#N)[BH3-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 6N | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 97 mg | [I-].[Zn+2].[I-]
product | (3-Methyl-1H-indol-5-yl)-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-amine | 22 mg, 31% yield | CC1=CNC2=CC=C(C=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=CC=C2 | C21H16N4S
